US05952519
Partial Reduction of 3-Methyl-5-(2,6,6-trimethyl-3-oxocyclohex-1-enyl)-1,2,4-pentatrienylphosphonic Acid, Diethyl Ester
In accordance with a procedure suggested by B. C. Ranu, et al., J. Org. Chem., 63, 5250 (1998), the following experiment was conducted: to a 25 mL 1-neck reaction flask fitted with a reflux condenser connected to an apparatus similar to that described by Johnson and Schneider [Org. Synth., 30, 18 (1950)] so that the mixture in the flask could be protected from atmospheric moisture, et al. throughout the course of the reaction were added 246 mg (0.70 mmole) of allenic phosphonate produced in accordance with Example VIII, 2 mg of hydroquinone (or other suitable antioxidant), 6.0 mL of methyl alcohol (HPLC-grade, purchased from Aldrich Chemical Co.), 54 mg (0.86 mmole) of ammonium formate, and 42 mg of 10% Pd-C (purchased from Aldrich Chemical Co.). After sweeping the system briefly with nitrogen gas, the mixture was heated, with vigorous stirring, at 60-65° C. (external oil bath temperature) for 7 hours. After cooling the mixture to room temperature, the product was isolated by dilution of the reaction mixture with 50 mL of 4:1 (v/v) ether:dichloromethane and removal of the palladium catalyst by filtration through a small pad of Hytlo Super-Cel® filtering aid. The filtrate was subsequently washed with saturated brine (2×50 mL), then dried over anhydrous magnesium sulfate and filtered. Removal of the ether and dichloromethane by evaporation at reduced pressure afforded 186 mg (75% yield) of an unsaturated phosphonate identified as 3-methyl-5-(2,6,6-trimethyl-3-oxocyclohex-1-enyl)-2,4-pentadienylphosphonic acid, diethyl ester, by IR and proton NMR (recorded at 400 MHz) analysis. IR analysis of this unsaturated phosphonate indicated that the double bond between C-1 and C-2 had been reduced [i.e., lack of absorption at 1935 cm-1 arising from the allenic moiety (C=C=C)]. The proton NMR spectrum exhibited two doublets (J=16 Hz) at δ 6.256 and 6.164 (2 vinyl H's at C-4 and C-5), a multiplet at δ 5.61 (C-2 vinyl H), a doublet of doublets (J=23.1, 8.1 Hz) at δ 2.761 (CH2P), and a triplet (J=6.9 Hz) at δ 2.505 (CH2C=O).

reactant | 3-methyl-5-(2,6,6-trimethyl-3-oxocyclohex-1-enyl)-2,4-pentadienylphosphonic acid, diethyl ester | CC(=CCP(OCC)(OCC)=O)C=CC1=C(C(CCC1(C)C)=O)C | C19H31O4P
reactant | phosphonate | P([O-])([O-])=O
product | 3-Methyl-5-(2,6,6-trimethyl-3-oxocyclohex-1-enyl)-1,2,4-pentatrienylphosphonic Acid, Diethyl Ester | CC(=C=CP(OCC)(OCC)=O)C=CC1=C(C(CCC1(C)C)=O)C | C19H29O4P
